US08378104B2
Step A: 2,3-dibromo-thieno[2,3-c]pyridine
To a cooled (−78° C.) solution of 3-bromo-thieno[2,3-c]pyridine (6.42 g, 30.0 mmol) in dry THF (150 mL) under nitrogen was added 2.0 M LDA (30.0 mL, 60.0 mmol) dropwise. The mixture was stirred at −78° C. for 1 h. A solution of NBS (10.7 g, 60 mmol) in THF (50 mL) was added to the reaction mixture dropwise keeping the temperature below −70° C. The mixture was then warmed to room temperature overnight. Saturated aqueous ammonium chloride (50 mL) was added to the mixture and layers were separated. The aqueous layer was extracted with EtOAc (2×60 mL). The combined organic fractions were washed with brine (50 mL), dried over sodium sulfate, and concentrated. Purification by column chromatography (100% DCM) afforded 4.5 g (55%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.62 (d, J=5.4

reactant | 3-bromo-thieno[2,3-c]pyridine | 30.0 mmol, 6.42 g | BrC1=CSC2=CN=CC=C21 | C7H4BrNS
reactant | LDA | 60.0 mmol, 2.0 M, 30.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | NBS | 60 mmol, 10.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,3-dibromo-thieno[2,3-c]pyridine | 4.5 g, 55% | BrC1=C(C=2C(=CN=CC2)S1)Br | C7H3Br2NS
